*****************************************************************
* NXP BUK9Y25-80E
*
* Polarity N-Channel
* Ratings 80V/2.700000E-002OHMS/37.4281484409431A
*
* Date Created Tue Feb 05 08:00:16 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y25-80E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 3e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 5.3e-10
RLS2 SOURCE 8 1.33203528512207
RLS1 8 7 0.0002

RDS 7 4 80000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0192075259184298 TC=0.00552507463091602,1.5388645227141E-05
RBD 9 4 0.00322457222512213 TC=0.00552507463091602,1.5388645227141E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 1.92e-09
RG 1 2 1.80663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	1960.24
+ -10	1958.65
+ -8	1956.33
+ -6	1952.8
+ -5	1950.02
+ -4	1946.18
+ -3	1939.46
+ -2	1904.87
+ -1	1892.29
+ -0.5	1867.56
+ -0.2	1804.18
+ -0.1	1800.9
+ 0	916.2902
+ 0.1	217.49152
+ 0.2	217.28308
+ 0.5	184.39016
+ 1	136.22112
+ 2	104.13837
+ 3	98.85358
+ 4	97.26224
+ 5	95.61918
+ 6	93.80106
+ 8	90.32563
+ 10	87.47096
+ 12	85.16028
+ 15	82.23571
+ 16	81.3275
+ 20	78.22412
+ 25	74.9239
+ 30	72.15674
+ 50	65.04416



.MODEL MINT NMOS(Vto=2.08978211302884 Kp=1.277636e+002 Nfs=440000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=88 Ibv=2.500000E-004 Rs=1E-6 Is=3.01888499854725e-13
+ N=1 M=0.65 VJ=0.68 Fc=0.5 Cjo=7.0920292e-10 Tt=1.7256e-08)

.ENDS

